US07396847B2
[3-(4-Bromo-phenyl)-4,5-dihydro-isoxazol-5-yl]-methanol
4-Bromo-benzaldehyde oxime (162 g, 789.9 mmol) and allyl alcohol (130.5 ml) were added to tetrahydrofuran (1000 ml) and then bleach (5305 ml) was added. The reaction was cooled to 0° C. and stirred for 3 hrs. The precipitate was collected and washed with water (2×300 ml) to give the desired product (137 g).

reactant | 4-Bromo-benzaldehyde oxime | 789.9 mmol, 162 g | BrC1=CC=C(C=NO)C=C1 | C7H6BrNO
reactant | allyl alcohol | 130.5 ml | C(C=C)O | C3H6O
solvent | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
product | [3-(4-Bromo-phenyl)-4,5-dihydro-isoxazol-5-yl]-methanol | 137 g | BrC1=CC=C(C=C1)C1=NOC(C1)CO | C10H10BrNO2
